US04263291
Dicyclohexylcarbodiimide (0.99 g.) was added at ambient temperature to a solution of diphenylmethyl 7-amino-7-methoxy-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate (2.1 g.) in dry tetrahydrofuran (20 ml.) and then 2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetic acid (syn isomer) (0.9 g.) was added thereto at ambient temperature to give white precipitates. After stirring for 2 days at ambient temperature, the precipitates were filtered off and the filtrate was concentrated under reduced pressure to give brown oil. The oil was subjected to column chromatography on silica gel, eluted with a mixture of chloroform and ethyl acetate and the eluate was concentrated under reduced pressure to give diphenylmethyl 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-7-methoxy-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate (syn isomer) (1.78 g.).

reactant | Dicyclohexylcarbodiimide | 0.99 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | diphenylmethyl 7-amino-7-methoxy-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate | 2.1 g | NC1([C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)OC | C24H24N6O4S2
reactant | 2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetic acid | 0.9 g | CON=C(C(=O)O)C=1N=NSC1 | C5H5N3O3S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | diphenylmethyl 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-7-methoxy-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate | 1.78 g | CON=C(C(=O)NC1([C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)OC)C=1N=NSC1 | C29H27N9O6S3
